US07183320B2
N-[3-chloro-4-fluorophenylsulfonyl]-4-chlorobenzamidine
4-chlorobenzamidine hydrochloride (0.025 g, 0.133 mmol) and 3-chloro-4 fluorophenyl sulfonylchloride (0.0304 g, 0.133 mmol); were used essentially as described in Example 114 to prepare the title compound. ES Positive Ion MS [M+H]+ ions observed: m/z 347 (35Cl, 35Cl), m/z 349 (37Cl, 37Cl) and m/z 351 (37Cl, 37Cl).

reactant | 4-chlorobenzamidine hydrochloride | 0.133 mmol, 0.025 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | 3-chloro-4 fluorophenyl sulfonylchloride | 0.133 mmol, 0.0304 g | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
product | N-[3-chloro-4-fluorophenylsulfonyl]-4-chlorobenzamidine | ClC=1C=C(C=CC1F)S(=O)(=O)NC(C1=CC=C(C=C1)Cl)=N | C13H9Cl2FN2O2S
